US04219657
Preparation of 3-(2-chlorophenylthio)-4-ketocyclohexane acetic acid ethyl ester
28 G. of 2-chlorothiophenol and a solution of 10.8 g. of 85% potassium hydroxide in 300 ml. of ethanol were each placed in a 3 liter three-necked flask, provided with a condenser, nitrogen inlet, dropping funnel and stirrer. The solution was brought to reflux and a solution of 50.6 g. of 3-bromo-4-ketocyclohexaneacetic acid ethyl ester in 500 ml. of ethanol was added over a period of one hour to the refluxing solution. After the addition, the solution was stirred at reflux for one hour, cooled to room temperature, and filtered to remove the potassium bromide. After removal of the ethanol in vacuo (steam bath, rotovapor), 300 ml. of water was added to the residue, the product was extracted three times with 200 ml. of ether and the ether extract dried over anhydrous magnesium sulfate. After removal of ether from a steam bath at atmospheric pressure, the residue was distilled in vacuo. A forerun was collected at 100°-190° (1 mm), while a main fraction was collected at 190° -222° (1 mm). The yield of 3-(2-chlorophenylthio)-4-ketocyclohexaneacetic acid ethyl ester from the main fraction was 33.9 g., b.p. 205-215/0.7 mm.

reactant | 2-chlorothiophenol | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | potassium hydroxide | [OH-].[K+]
reactant | 3-bromo-4-ketocyclohexaneacetic acid ethyl ester | C(C)OC(CC1CC(C(CC1)=O)Br)=O | C10H15BrO3
solvent | ethanol | C(C)O | C2H6O
product | 3-(2-chlorophenylthio)-4-ketocyclohexane acetic acid ethyl ester | C(C)OC(CC1CC(C(CC1)=O)SC1=C(C=CC=C1)Cl)=O | C16H19ClO3S
